US06417212B1
B. 2-(5-Benzyloxy-biphenyl-2-yloxy)-2-methyl-propionic acid ethyl ester
2-(4-Benzyloxy-2-bromo-phenoxy)-2-methyl-propionic acid ethyl ester (3.00 g, 7.63 mmol) and phenyl boronic acid (1.12 g, 9.15 mmol) were dissolved in toluene (75 mL)/ethanol (75 mL). The solution was degassed (2x), and tetrakis(triphenylphosphine)palladium (70 mg, 0.061 mmol) was added followed by aqueous 2M Na2CO3 solution (7.63 mL, 15.3 mmol). The reaction mixture was degassed (2x) and heated to reflux under argon for 16 h. The reaction mixture cooled and partitioned between ethyl acetate (200 mL) and H2O (75 mL). The organic layer was washed with brine (75 mL), dried (Na2SO4), and concentrated to a light brown oil (3.58 g). The crude product was used directly in the next reaction: 1H NMR (400 MHz, CDCl3) δ1.266 (t, 3H, J=7.1 Hz), 1.273 (s, 6H), 4.20 (q, 2H, J=7.1 Hz), 5.03 (s, 2H), 6.82 (dd, 1H, J=3.2, 9.0 Hz), 6.92 (d, 1H, J=8.8 Hz), 6.97 (d, 1H, J=3.0 Hz), 7.28-7.44 (m, 8H), 7.51-7.60 (m, 2H); MS (ES) m/e # [M+1].

reactant | 2-(4-Benzyloxy-2-bromo-phenoxy)-2-methyl-propionic acid ethyl ester | 7.63 mmol, 3.00 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)Br)=O | C19H21BrO4
reactant | phenyl boronic acid | 9.15 mmol, 1.12 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 15.3 mmol, 2M, 7.63 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.061 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-Benzyloxy-biphenyl-2-yloxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C25H26O4
